US04241072
A. N,N-Dimethyl-N'-(2-benzimidazolyl)-1,2-ethane diamine
27.2 G. (0.139 moles) of 2-methanesulfonyl benzimidazole and 26.5 g. (0.3 moles) of N,N-dimethylethylene diamine are combined and heated at 170°-175° C. for 5 hours. The mixture is then cooled and concentrated in vacuo. The residue is dissolved in methylene chloride washed with saturated sodium chloride, dried over sodium sulfate and evaporated to dryness affording 22 g. of N,N-dimethyl-N'-(2-benzimidazolyl)-1,2-ethane diamine compound which is recrystallized from benzene yielding 20.3 g. with a m.p. of 143.5-145.5.

reactant | 2-methanesulfonyl benzimidazole | 0.139 moles | CS(=O)(=O)C=1NC2=C(N1)C=CC=C2 | C8H8N2O2S
reactant | N,N-dimethylethylene diamine | 0.3 moles | CN(CCN)C | C4H12N2
product | N,N-Dimethyl-N'-(2-benzimidazolyl)-1,2-ethane diamine | CN(CCNC=1NC2=C(N1)C=CC=C2)C | C11H16N4
